US04588720
10 g of activated manganese dioxide were added to a solution of 2.2 g (6.7 mmol) of (6-ethyl-7-methoxy-5-methyl imidazo[1,2-a]pyrimidin-2-yl)(4-methoxyphenyl)methanol in 100 ml of chloroform and the mixture was stirred at room temperature for 18 hours. The mixture was filtered through celite and evaporation of the filtrate gave a solid product. Purification on a 100 g silica gel column using chloroform-methanol (98 to 2) as the eluant gave 1.3 g (59% yield) of pure (6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidin-2-yl)(4-methoxyphenyl)methanone as a white crystalline solid melting at 196°-7° C. Overall yield from ester was 37%.

reactant | (6-ethyl-7-methoxy-5-methyl imidazo[1,2-a]pyrimidin-2-yl)(4-methoxyphenyl)methanol | 6.7 mmol, 2.2 g | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(O)C2=CC=C(C=C2)OC)OC | C18H21N3O3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | (6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidin-2-yl)(4-methoxyphenyl)methanone | 1.3 g, 59% yield | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(=O)C2=CC=C(C=C2)OC)OC | C18H19N3O3
